US05843901
Synthesis of Boc-D-Pal(Bzl) Hydrobromide Salt
Boc-D-Pal (1.36 g, 6.0 mmol) was suspended in 60 ml of acetonitrile. Benzyl bromide (about 50 mmol) was added and the mixture was warmed to 50° C. on a water bath. A clear solution resulted, and was stirred at room temperature for 16 hours. A white precipitate formed; TLC after 17 hours showed some starting remaining starting material; stirring continued for a total of 5 days, when the reaction was complete. The solvent was evaporated under reduced pressure, and the residue recrystallized from EtOH/ethyl acetate. Yield: 85%; m.p. 166°-170° C.

reactant | Boc-D-Pal | 6.0 mmol, 1.36 g | N([C@H](CC1=CC=CN=C1)C(=O)O)C(=O)OC(C)(C)C | C13H18N2O4
reactant | Benzyl bromide | about 50 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | Boc-D-Pal(Bzl) Hydrobromide | Yield: 85% | N([C@H](CC=1C=CCN(C1)CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C.Br | InChI=1S/C20H26N2O4.BrH/c1-20(2,3)26-19(25)21-17(18(23)24)12-16-10-7-11-22(14-16)13-15-8-5-4-6-9-15;/h4-10,14,17H,11-13H2,1-3H3,(H,21,25)(H,23,24);1H/t17-;/m1./s1
